US07579488B2
Step B. 1-{4-[1-Ethyl-1-(5-hydroxymethyl-benzofuran-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one
4-[1-Ethyl-1-(5-hydroxymethyl-benzofuran-2-yl)-propyl]-2-methyl-phenol (653 mg, 2.02 mmol) and 1-bromopinacolone (555 mg, 3.10 mmol) and K2CO3 (570 mg, 4.13 mmol) in acetone (40 mL) are reacted analogous to Example 18-E to give the title compound (870 mg, 100%).

reactant | 4-[1-Ethyl-1-(5-hydroxymethyl-benzofuran-2-yl)-propyl]-2-methyl-phenol | 2.02 mmol, 653 mg | C(C)C(CC)(C=1OC2=C(C1)C=C(C=C2)CO)C2=CC(=C(C=C2)O)C | C21H24O3
reactant | 1-bromopinacolone | 3.10 mmol, 555 mg | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | K2CO3 | 4.13 mmol, 570 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | 1-{4-[1-Ethyl-1-(5-hydroxymethyl-benzofuran-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one | 870 mg, 100% | C(C)C(CC)(C=1OC2=C(C1)C=C(C=C2)CO)C2=CC(=C(OCC(C(C)(C)C)=O)C=C2)C | C27H34O4
